US08309577B2
A solution of 4-chloro-6-(1H-1,2,4-triazol-1-yl)pyrimidine (1.24 g, 6.83 mmol) in 2 M ammonia (20 mL, 40.0 mmol)/isopropanol was heated at 80° C. in a sealed vial for 18 h. After cooling the solid precipitate was filtered and dried to give 6-(1H-1,2,4-triazol-1-yl)pyrimidin-4-amine (1.06 g, 96% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.30 (1H, s), 8.35 (1H, s), 8.30 (1H, s), 7.39 (2H, br. s.), 6.83 (1H, d, J=0.76 Hz). LCMS: RT=0.41 min, MH+=163.1

reactant | 4-chloro-6-(1H-1,2,4-triazol-1-yl)pyrimidine | 6.83 mmol, 1.24 g | ClC1=NC=NC(=C1)N1N=CN=C1 | C6H4ClN5
reactant | ammonia | 40.0 mmol, 2 M, 20 mL | N | H3N
solvent | isopropanol | C(C)(C)O | C3H8O
product | 6-(1H-1,2,4-triazol-1-yl)pyrimidin-4-amine | 1.06 g, 96% yield | N1(N=CN=C1)C1=CC(=NC=N1)N | C6H6N6
